US07635715B2
Step F: Preparation of N-((6,7-Difluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((6,7-difluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate (152 mg, 359 μmol) was dissolved in TFA at ambient temperature for 30 minutes and then concentrated, precipitated with hexanes, filtered, washed with hexanes, and dried in a vacuum oven to give the title compound (115 mg) as a white solid. MS (m/z)=368 (M+H)+. Calculated for C17H15F2NO6 367.09.

reactant | 1,1-Dimethylethyl N-((6,7-difluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 359 μmol, 152 mg | FC=1C=C2C(=C(C(C3(CCOCC3)C2=CC1F)=O)C(=O)NCC(=O)OC(C)(C)C)O | C21H23F2NO6
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((6,7-Difluoro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycine | 115 mg | FC=1C=C2C(=C(C(C3(CCOCC3)C2=CC1F)=O)C(=O)NCC(=O)O)O | C17H15F2NO6
